US04499309
1-Tris(2-fluoro-2,2-dinitroethoxy)methyl-2-imidazolidone
A solution of 19.6 g (0.03 mol) of tris(2-fluoro-2,2-dinitroethoxy)methyl trichloromethyl disulfide in 55 ml of dry 1,2-dichloroethane at 55°-60° C. was treated with chlorine gas for 2 hours, then held at 55°-60° C. for 2 hours before the solvent was removed with a stream of nitrogen. The residue was washed three times with hexane to give a white solid which was dissolved in 60 ml of dry 1,2-dichloroethane. 2-Imidazolidone (6.0 g, 0.069 mol) was added and the mixture was stirred at ambient temperature for 24 hours before the insoluble solid was removed by filtration and stirred with water to give 11.63 g, mp 154°-156° C. Removal of the solvent from the dichloroethane mother liquor (reaction solution) gave a residue which was stirred with chloroform and water to yield an additional 1.12 g, mp 152°-155° C. [total yield=12.75 g (76%)]. The analytical sample from dichloroethane had mp 155°-156° C.; H--NMR(C6D6): δ 4.46 (d, 6H); 4.00 (s, 1H), 2.66 (t, 2H), 2.20 (t, 2H); IR (KBr): 3480 (NH), 1725 (C=O), 1605 (NO2) cm-1.

reactant | tris(2-fluoro-2,2-dinitroethoxy)methyl trichloromethyl disulfide | 0.03 mol, 19.6 g | ClC(Cl)(Cl)SSC(OCC(F)([N+](=O)[O-])[N+](=O)[O-])(OCC(F)([N+](=O)[O-])[N+](=O)[O-])OCC([N+](=O)[O-])([N+](=O)[O-])F | C8H6Cl3F3N6O15S2
reactant | chlorine | ClCl | Cl2
reactant | 2-Imidazolidone | 0.069 mol, 6.0 g | N1C(NCC1)=O | C3H6N2O
reactant | dichloroethane | ClC(C)Cl | C2H4Cl2
reactant | KBr | [K+].[Br-]
solvent | 1,2-dichloroethane | 55 ml | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 60 ml | ClCCCl | C2H4Cl2
solvent | water | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-Tris(2-fluoro-2,2-dinitroethoxy)methyl-2-imidazolidone | FC(COC(N1C(NCC1)=O)(OCC(F)([N+](=O)[O-])[N+](=O)[O-])OCC(F)([N+](=O)[O-])[N+](=O)[O-])([N+](=O)[O-])[N+](=O)[O-] | C10H11F3N8O16
